US04413010
m-nitrophenol and bromoanisole yield p-(m-nitrophenoxy)anisole of m.p. 69°-71° C. and reaction with hydrobromic acid/acetic acid yields p-(m-nitrophenoxy)phenol which distils in the bulb-tube at 95°-97° C./0.04 Torr;

reactant | p-(m-nitrophenoxy)anisole | [N+](=O)([O-])C=1C=C(OC2=CC=C(C=C2)OC)C=CC1 | C13H11NO4
reactant | hydrobromic acid acetic acid | Br.C(C)(=O)O
product | p-(m-nitrophenoxy)phenol | [N+](=O)([O-])C=1C=C(OC2=CC=C(C=C2)O)C=CC1 | C12H9NO4
